US05866568
1-Bromo-4-(cyclopropylmethyl)benzene (2.11 g) was dissolved in anhydrous tetrahydrofuran (20 ml) and cooled to -70° C. under an argon atmosphere. A 1.25M solution of n-butyl lithium in hexane (8.8 ml) was added at such a rate that the temperature did not exceed -65° C. with stirring, which was maintained for a further 30 minutes. Trimethyl borate was added slowly keeping the temperature below -60° C. and the reaction mixture was stirred for a further 1.5 hours at -70° C. After warming to -5° C., the reaction was quenched by the addition of a saturated aqueous solution of ammonium chloride (50 ml) and the organic phase was separated. The aqueous layer was extacted with ethyl acetate (2×30 ml) and combined organic phases were dried (MgSO4) and evaporated to give 4-(cyclopropylmethyl)phenylboronic acid (1.52 g); 1H NMR (d6 -DMSO): 0.2 (d, 2 H), 0.5 (d, 2 H), 0.9-1.07 (m, 1 H), 2.5 (partly obscured by DMSO), 7.2 (d, 2 H), 7.7 (d, 2 H); mass spectrum (-ve ESP) 175 (M-H)-.

reactant | 1-Bromo-4-(cyclopropylmethyl)benzene | 2.11 g | BrC1=CC=C(C=C1)CC1CC1 | C10H11Br
reactant | n-butyl lithium | C(CCC)[Li]
reactant | Trimethyl borate | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | 8.8 ml | CCCCCC | C6H14
product | 4-(cyclopropylmethyl)phenylboronic acid | 1.52 g | C1(CC1)CC1=CC=C(C=C1)B(O)O | C10H13BO2
